US05843917
(c) 2'-Deoxy-5-ethynyl-5'-O-(4-methoxytrityl)uridine
2'-Deoxy-5-iodo-5'-O-(4-methoxytrityl)uridine (1.2 g, 1.8 mmol) was dissolved in 6 ml of anhydrous N,N-dimethylformamide (DMF) and the solution was vigorously deoxygenated with nitrogen for 30 min. To the magnetically stirred solution was added 142 mg (0.20 mmol) bis(triphenylphosphine)palladium(II) chloride, 76 mg (0.40 mmol) copper (I) iodide, 0.53 ml (5.40 mmol) of trimethylsilylacetylene and 0.56 ml (4.0 mmol) of triethylamine (Aldrich Chemical Company, Milwaukee, Wis. 53233). The following day identical portions of bis(triphenylphosphine)palladium(II)chloride, copper (I) iodide, trimethylsilylacetylene and triethylamine were added. The reaction was allowed to stir for an additional 5 hrs before being poured into 100 ml ethyl acetate in a separating funnel. The ethyl acetate solution was extracted with 3×30 ml aqueous 5% ethylenediamine tetra acetic acid disodium salt and washed with 1×30 ml water. Ethyl acetate was removed on the rotary evaporator to give a black foam. This foam was dissolved in 5 ml of acetonitrile and 222 mg (1.5 mmol) of tetraethyl ammonium fluoride hydrate (Aldrich Chemical Company, Milwaukee, Wis. 53233) was added and the solution was magnetically stirred for 1 hr. After this period the reaction mixture was loaded directly onto a column (2.5 C 30 cm) packed with silica gel (100 g, 230-400 mesh) in chloroform. Under medium air pressure (9-12 psi) the column was first eluted with 1 L of chloroform, then 1 L of 1% methanol in chloroform and finally with 1 L of 2.5% methanol in chloroform to elute the product. The appropriate product fractions were combined and solvent was removed on a rotary evaporator to 769 mg (1.5 mmol) of a light brown foam: Rf 0.23 (silica, 95:5 chloroform: methanol) ; IR (1% KBr) acetylenic carbon-carbon stretch 2110 cm-1 ; MS (EI, Cl,) 524 (M). 1H NMR (300 MHz, DMSO - d6) δ 11.69 (s, 1H, NH), 7.94 (s, 1H, H6), 7.41-7.21 (m, 10H, Ar H), 6.90 (d, 2H, Ar H, J=8.9 Hz), 6.11-6.07 (overlapping dd, 1H, H1'), 5.30 (d, 1H, 3' OH, J=4.6 Hz), 4.24 (m, 1H, H4'), 3.74 (s, 3H OCH3), 3.41-3.11 (m, overlapping water peak, H5' & H5"), 2.27-2.18 (m, 2H, H2" & H2').

reactant | 2'-Deoxy-5-iodo-5'-O-(4-methoxytrityl)uridine | 1.8 mmol, 1.2 g | IC=1C(NC(N([C@H]2C[C@H](O)[C@@H](COC(C3=CC=C(C=C3)OC)(C3=CC=CC=C3)C3=CC=CC=C3)O2)C1)=O)=O | C29H27IN2O6
reactant | trimethylsilylacetylene | 5.40 mmol, 0.53 ml | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 4.0 mmol, 0.56 ml | C(C)N(CC)CC | C6H15N
reactant | tetraethyl ammonium fluoride hydrate | 1.5 mmol, 222 mg | O.[F-].C(C)[N+](CC)(CC)CC
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.20 mmol, 142 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 0.40 mmol, 76 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II)chloride | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | methanol | CO | CH4O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2'-Deoxy-5-ethynyl-5'-O-(4-methoxytrityl)uridine | C(#C)C=1C(NC(N([C@H]2C[C@H](O)[C@@H](COC(C3=CC=C(C=C3)OC)(C3=CC=CC=C3)C3=CC=CC=C3)O2)C1)=O)=O | C31H28N2O6
